US07407976B2
Rink amide resin (0.627 g, 0.752 mmol, 1.20 mmol/g) was suspended and allowed to swell for 10 minutes in 4 mL of N,N-dimethylformamide (DMF). Phenylacetic acid (0.15 g, 1.1 mmol) and triethylamine (0.21 mL, 1.5 mmol) were then added to the reaction mixture. O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (HATU, 0.46 g, 1.2 mmol) was added and the reaction mixture was swirled for two hours, filtered, and washed with DMF and dichloromethane. The resin was then suspended in 5 mL of toluene and 2,4-bis-(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulfide (Lawesson's Reagent, 0.93 g, 2.3 mmol) was added to the suspension. The reaction mixture was then swirled for 2 hours at 65° C., filtered, and washed with DMF and dichloromethane. The resin (0.50 g, 0.60 mmol) was then allowed to swell in 5 mL of tetrahydrofuran for 10 minutes and bromopyruvic acid (0.060 g, 0.36 mmol) was added to the reaction mixture. The mixture was then subjected to microwave irradiation for 20 minutes at 135° C., and followed by filtration to yield crude 2-benzyl-thiazole-4-carboxylic acid. MS m/z calc. 219.0, found (ESI); 220.2 (M+H+). Retention time 2.38 minutes. The crude acid was dissolved in 2 mL of acetonitrile containing triethylamine (0.0836 mL, 0.600 mmol) and 2-(3,4-dimethoxy-phenyl)-ethylamine (0.0332 mL, 0.200 mmol). O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (0.0836 g, 0.220 mmol) was added and the solution was allowed to stir for 16 hours. The reaction mixture was then purified by reverse-phase preparative liquid chromatography to yield (0.011 g, 0.029 mmol, 4.8%) a colorless oil. MS m/z calc. 382.1, found (ESI); 383.2 (M+H+) Retention time 2.97 minutes. 1H NMR (400 MHz, CD3CN) δ2.85 (t, J=7.0 Hz, 2H), 3.53-3.65 (m, 2H), 3.78 (s, 3H), 3.80 (s, 3H), 4.33 (s, 2H), 6.78-6.91 (m, 3H), 7.29-7.42 (m, 5H), 7.52 (s, 1H), 7.92 (s, 1H)

reactant | Phenylacetic acid | 1.1 mmol, 0.15 g | C1(=CC=CC=C1)CC(=O)O | C8H8O2
reactant | triethylamine | 1.5 mmol, 0.21 mL | C(C)N(CC)CC | C6H15N
reactant | O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 1.2 mmol, 0.46 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 2,4-bis-(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulfide | 2.3 mmol, 0.93 g | COC1=CC=C(C=C1)P1(SP(S1)(C1=CC=C(C=C1)OC)=S)=S | C14H14O2P2S4
reactant | bromopyruvic acid | 0.36 mmol, 0.060 g | BrCC(C(=O)O)=O | C3H3BrO3
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 2-benzyl-thiazole-4-carboxylic acid | C(C1=CC=CC=C1)C=1SC=C(N1)C(=O)O | C11H9NO2S
